US09034880B2
Preparation of 3-(6-(trifluoromethyl)pyridin-3-yl)-2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoic acid (Compound 381)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, (Z)-3-(6-(trifluoromethyl)pyridin-3-yl)acrylic acid and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | (Z)-3-(6-(trifluoromethyl)pyridin-3-yl)acrylic acid | FC(C1=CC=C(C=N1)\C=C/C(=O)O)(F)F | C9H6F3NO2
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 3-(6-(trifluoromethyl)pyridin-3-yl)-2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoic acid | FC(C1=CC=C(C=N1)CC(C(=O)O)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(F)F | C22H22F3N3O2
